US06515011B2
To a solution of 1.0 g (3.8 mmol) N-(tert-butoxycarbonyl)-3-pyridin-2-yl-D-alanine in 7 ml DMF was added 0.62 g (3.8 mmol) L-proline methyl ester hydrochloride, 0.52 mL (3.8 mmol) triethylamine, 0.51 g (0.38 mmol) HOAt, and 1.1 g (5.7 mmol) EDC. After 3 h at room temperature, the reaction mixture was diluted with 300 ml EtOAc, washed with 200 ml each of saturated NaHCO3 solution, water, and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. Purification by automated flash chromatography (ISCO combiflash, 70 g silica gel, linear gradient 50-100% EtOAc:hexane 30 min then 2-10% MeOH/EtOAc at 60 mL/min) afforded 0.9 g N-(tert-butoxycarbonyl)-3-pyridin-2-yl-D-alanyl-L-proline methyl ester of which 0.44 g (1.2 mmol) was dissolved in 7 mL MeOH. To this was added 1.2 mL (1.2 mmol, 1M aqueous solution) LiOH and the reaction mixture stirred 6 hours, then another 0.12 mL (0.12 mmol, 1M aqueous solution) portion of LiOH was added and the reaction mixture stirred an additional 16 hrs before addition of 0.12 mL conc. HCl (1.44 mmol, 12M aqueous solution) was added and the reaction concentrated to give N-(tert-butoxycarbonyl)-3-pyridin-2-yl-D-alanyl-L-proline as a foam. 1H NMR (CD3OD, 400 MHz) δ 8.47 (m, 1H); 7.78 (m, 1H); 7.34 (m, 2H,); 4.31 (dd, 1H, J=4.21, 8.8 Hz); 3.78 (br m, 1H); 3.54 (br m, 1H); 3.17 (dd, 1H, J=6.23 and 13.5 Hz); 3.02 (m, 2H); 2.3-1.8 (br m, 4H); 1.35 (s, 9H); electrospray mass spectrum 364.

reactant | N-(tert-butoxycarbonyl)-3-pyridin-2-yl-D-alanine | 3.8 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@H](CC1=NC=CC=C1)C(=O)O | C13H18N2O4
reactant | L-proline methyl ester hydrochloride | 3.8 mmol, 0.62 g | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 3.8 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
reactant | HOAt | 0.38 mmol, 0.51 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 5.7 mmol, 1.1 g
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
product | N-(tert-butoxycarbonyl)-3-pyridin-2-yl-D-alanyl-L-proline methyl ester | 0.9 g | COC([C@H]1N(CCC1)C([C@H](NC(=O)OC(C)(C)C)CC1=NC=CC=C1)=O)=O | C19H27N3O5
